US03953398
Ethyl 3,5-bis(1,1-dimethylbutyl)-4-hydroxycinnamate was prepared by heating a mixture of 29 grams of 3,5-bis(1,1-dimethylbutyl)-4-hydroxybenzaldehyde, 40 grams of ethyl hydrogen malonate, 50 milliliters pyridine and 3 milliliters of piperidine at 90° to 95° C. for 7 hours. The reaction mixture was poured into a solution of 50 milliliters of concentrated hydrochloric acid in 100 milliliters of water. The oil which precipitated was separated by extraction with petroleum ether and the extract was stripped under vacuum to a pot temperature of 50°C./14 mm. The viscous residue weighed 39 grams.

reactant | 3,5-bis(1,1-dimethylbutyl)-4-hydroxybenzaldehyde | 29 grams | CC(CCC)(C)C=1C=C(C=O)C=C(C1O)C(CCC)(C)C | C19H30O2
reactant | ethyl hydrogen malonate | 40 grams | C(CC(=O)O)(=O)OCC | C5H8O4
reactant | piperidine | 3 milliliters | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | 50 milliliters | Cl | ClH
solvent | water | 100 milliliters | O | H2O
solvent | pyridine | 50 milliliters | N1=CC=CC=C1 | C5H5N
product | Ethyl 3,5-bis(1,1-dimethylbutyl)-4-hydroxycinnamate | CC(CCC)(C)C=1C=C(C=CC(=O)OCC)C=C(C1O)C(CCC)(C)C | C23H36O3
